### PR TITLE
[Merged by Bors] - feat(Rat, NNRat): `q * q.den = q.num`

### PR DESCRIPTION
**Pull request by YaelDillies**
and a few other lemmas.

From LeanAPAP

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/NNRat/Defs.lean [hunk 1]
```diff
@@ -403,9 +403,31 @@ lemma mk_divInt (n d : ℕ) :
...
+lemma divNat_mul_right {a : ℕ} (ha : a ≠ 0) (n d : ℕ) : divNat (n * a) (d * a) = divNat n d := by
+  ext; push_cast; exact Rat.divInt_mul_right (mod_cast ha)
+
+lemma mul_den_eq_num (q : ℚ≥0) : q * q.den = q.num := by
+  ext
+  push_cast
+  rw [← Int.cast_natCast, ← den_coe, ← Int.cast_natCast q.num, ← num_coe]
+  exact Rat.mul_den_eq_num _
+
+lemma den_mul_eq_num (q : ℚ≥0) : q.den * q = q.num := by rw [mul_comm, mul_den_eq_num]
```
Comment (eric-wieser) [inline Mathlib/Data/NNRat/Defs.lean:429]: `simp`?

**Review by eric-wieser — APPROVED** [review]
bors d+

**Comment by YaelDillies** [comment]
bors merge
